Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-4.76329205746
[C:2]#[C:3]/[C:4]([O:5][H:6])=[C:7](\[H:8])[O:9][H:10].[H:1]>>[H:1][C:2]#[C:3]/[C:4]([O:5][H:6])=[C:7](\[H:8])[O:9][H:10],-5.1004914254900005
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:10](=[O:9])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]1([H:8])[O:9][C:10]1[H:11],1.42377671029
[C:1].[C:2]([O:3][C:4]#[C:5][H:6])=[C:7]([H:8])[H:9]>>[C:1]=[C:2]([O:3][C:4]#[C:5][H:6])[C:7]([H:8])[H:9],-4.77322162106
[C:8]([H:9])([H:10])[H:17].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-3.91514626464
[C:1]=[C:2]([C:3](=[O:4])[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:1]#[C:2][C:6]([H:7])=[C:8]([H:9])[H:10].[C:3](=[O:4])[H:5],2.8859052991
[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15].[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15],-1.93151529492
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1],3.6746597287
[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7][C:9]([H:10])([H:11])[H:12].[H:8],3.86471397534
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]1([H:12])[H:13],-0.84003148619
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13],-1.10390864506
[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:6]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.01002723585
[C:4]([H:5])=[O:9].[O:1]([C:2]([H:3])[C:6]#[C:7][H:8])[H:10]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]#[C:7][H:8])[O:9][H:10],-2.8226297093
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:12]>>[H:1][C:2][C:3]1[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]1[H:12],-2.50865695181
[O:13][H:14].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-5.41487709393
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][H:7]>>[C:3]([O:4][H:5])[O:6][H:7].[H:1][C:2],5.83190182571
[C:3]#[C:4][C:5]([H:6])([H:7])[O:8][H:9].[O:1]=[C:2]>>[O:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[O:8][H:9],-2.6854021415900005
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:8],4.562027816830001
[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2][O:3][C:4]#[C:5][H:6],2.70050049568
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.57191317056
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1].[O:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],1.37228641335
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[O:11]>>[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[O:11].[O:1]=[C:2]([H:3])[H:4],0.312215666089
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13].[H:14]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-1.94606792308
[H:1][C:2]#[C:3][H:4].[O:5]=[C:6]=[C:7]([H:8])[H:9]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9],2.75630895196
[H:1]/[C:2](=[C:3]([H:4])\[C:5]([H:6])=[C:7](/[H:8])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9]>>[H:1][C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-2.36391234999
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12].[H:1][O:2][C:3],2.7255059849400003
[H:1][C:2]([H:3])([H:4])[C:5].[O:6]=[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12],-1.88404829714
[H:1].[O:2]=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-0.921239801366
